US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(isopropyl(methyl)amino)-7-methoxyquinoxaline-6-carboxylate (500 mg, 1.31 mmol) in dichloromethane (80 mL) was added BBr3 (2.0 mL) dropwise with stirring at −78° C. for 30 minutes. The reaction was then quenched by the addition of water/ice. The resulting solution was extracted with dichloromethane (3×80 mL), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the residue, which was purified via silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid (145 mg, 30%).

reactant | methyl 2-(4-fluorophenyl)-3-(isopropyl(methyl)amino)-7-methoxyquinoxaline-6-carboxylate | 1.31 mmol, 500 mg | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C)C(C)C)C(=O)OC)OC | C21H22FN3O3
reactant | BBr3 | 2.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | methyl 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 145 mg, 30% | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C)C(C)C)C(=O)OC)O | C20H20FN3O3
